US08877782B2
d) [3-(2,5-Difluoro-phenyl)-5-methyl-isoxazol-4-yl]-methanol
As described for example 84d, 3-(2,5-difluoro-phenyl)-5-methyl-isoxazole-4-carboxylic acid ethyl ester (18 g, 67.4 mmol) was converted, instead of 3-(2-fluoro-phenyl)-5-methyl-isoxazole-4-carboxylic acid ethyl ester, to the title compound (3.25 g, 21%) which was obtained as a yellow oil. MS: m/e=226.2 [M+H]+.

reactant | 3-(2,5-difluoro-phenyl)-5-methyl-isoxazole-4-carboxylic acid ethyl ester | 67.4 mmol, 18 g | C(C)OC(=O)C=1C(=NOC1C)C1=C(C=CC(=C1)F)F | C13H11F2NO3
reactant | 3-(2-fluoro-phenyl)-5-methyl-isoxazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NOC1C)C1=C(C=CC=C1)F | C13H12FNO3
product | [3-(2,5-Difluoro-phenyl)-5-methyl-isoxazol-4-yl]-methanol | 3.25 g, 21% | FC1=C(C=C(C=C1)F)C1=NOC(=C1CO)C | C11H9F2NO2
